US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.1 g) and (4-isopropylphenyl)[6-(tetrahydropyran-2-yloxy)hexyl]amine (2.0 g) as starting materials, N-(4-isopropylphenyl)-N-[6-(tetrahydropyran-2-yloxy)hexyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.0 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 9, N-(6-hydroxyhexyl)-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.64 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.1 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | (4-isopropylphenyl)[6-(tetrahydropyran-2-yloxy)hexyl]amine | 2.0 g | C(C)(C)C1=CC=C(C=C1)NCCCCCCOC1OCCCC1 | C20H33NO2
product | N-(4-isopropylphenyl)-N-[6-(tetrahydropyran-2-yloxy)hexyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.0 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CCCCCCOC1OCCCC1 | C31H43NO3
